US08735406B2
Process of 2-chloro-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one
To a solution of 2-chloro-9-methyl-7,9-dihydro-8H-purine-8-one <the compound of Reference Example 1> (3.0 g) in N,N-dimethylformamide (50 ml) were added 1,4-diazabicyclo[2.2.2]octane (5.5 g) and 1-pyrrolidine carbonyl chloride (2.7 ml) and the mixture was stirred for 1 hour. The reaction mixture was poured into cold water and the crystals precipitated were collected by filtration to give the title compound 3.0 g.

reactant | 2-chloro-9-methyl-7,9-dihydro-8H-purine-8-one | ClC1=NC=C2NC(N(C2=N1)C)=O | C6H5ClN4O
reactant | 1,4-diazabicyclo[2.2.2]octane | 5.5 g | N12CCN(CC1)CC2 | C6H12N2
reactant | 1-pyrrolidine carbonyl chloride | 2.7 ml | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-chloro-9-methyl-7-(pyrrolidin-1-ylcarbonyl)-7,9-dihydro-8H-purine-8-one | 3.0 g | ClC1=NC=C2N(C(N(C2=N1)C)=O)C(=O)N1CCCC1 | C11H12ClN5O2
